US08034937B2
d) 5H-Spiro[furo[3,4-b]pyridine-7,4′-piperidine]
A solution of 0.39 g (1.4 mmol) 1′-benzyl-5H-spiro[furo[3,4-b]pyridine-7,4′-piperidine] in 14 ml ethanol was purged with argon prior to adding 0.15 g (10 mol %) palladium on activated charcoal. The flask was evacuated, refilled with hydrogen gas and stirred at room temperature under an atmosphere of hydrogen for 16 h. The catalyst was filtered off and washed with ethanol. The filtrate was concentrated to dryness to give the title compound (0.24 g, 91%) as an amorphous solid.

reactant | 1′-benzyl-5H-spiro[furo[3,4-b]pyridine-7,4′-piperidine] | 1.4 mmol, 0.39 g | C(C1=CC=CC=C1)N1CCC2(CC1)OCC=1C2=NC=CC1 | C18H20N2O
solvent | ethanol | 14 ml | C(C)O | C2H6O
catalyst | palladium on activated charcoal | 0.15 g | [Pd] | Pd
product | 5H-Spiro[furo[3,4-b]pyridine-7,4′-piperidine] | 0.24 g, 91% | N1CCC2(CC1)OCC=1C2=NC=CC1 | C11H14N2O
